US05158946
c) Diphenylmethyl 7β-Amino-3-(2,5-dihydro-2-oxofuran-4-ylmethylthio)ceph -3-em-4-carboxylate
A stirred solution of diphenylmethyl 3-(2,5-dihydro-2-oxofuran-4-ylmethylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate (520 mg) in dry dichloromethane (8 ml) was cooled to -20° C., then N-methylmorpholine (0.202 ml) was added followed by a solution of phosphorous pentachloride in dichloromethane (7.2 ml of a solution containing 40 mg ml-1). The solution was stirred at -15° to -20° C. for 30 mins., then methanol (1.8 ml) was added and the mixture stirred at room temperature for 30 mins. Water (2.5 ml) was then added and the mixture vigorously stirred for a further 30 mins. The dichloromethane was then evaporated on a rotary evaporator and the residue partitioned between ethyl acetate and water. The pH of the aqueous phase was adjusted to 6.0 with saturated sodium bicarbonate solution and the organic phase was separated, washed with water, then brine, dried over magnesium sulphate and evaporated. The title compound (333 mg) was isolated by column chromatography of the residue (Kieselgel, ethyl acetate as eluent). υmax (CHCl3) 1780 and 1750 cm-1 ; δH (CDCl3) 1.86 (2H, broad s), 3.42 (1H, d, J 17.4Hz), 3.48 (1H, d, J 15.0Hz), 3.60 (1H, d, J 17.4Hz), 3.65 (1H, d, J 15.0Hz), 4.60 (2H, s), 4.78 (1H, d, J 5.1Hz), 4.95 (1H, d, J 5.1Hz), 5.89 (1H, s), 6.99 (1H, s), 7.2-7.5 (10H, m).

reactant | diphenylmethyl 3-(2,5-dihydro-2-oxofuran-4-ylmethylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate | 520 mg | O=C1OCC(=C1)CSC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C33H28N2O6S2
reactant | N-methylmorpholine | 0.202 ml | CN1CCOCC1 | C5H11NO
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 1.8 ml | CO | CH4O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | Water | 2.5 ml | O | H2O
product | Diphenylmethyl 7β-Amino-3-(2,5-dihydro-2-oxofuran-4-ylmethylthio)ceph -3-em-4-carboxylate | 333 mg | N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=CC(OC2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N2O5S2
